US09447030B2
To a solution of 5-bromo-2-nitroaniline (1 g, 4.61 mmol) in dichloromethane (15 mL) were added TEA (8.35 mL, 59.9 mmol, 1.3 eq.) and triphosgene (1.37 g, 4.61 mmol, 1 equiv.) at 0° C. The mixture was stirred for three hours at room temperature and the pyrrolidine (0.39 g, 5.53 mmol, 1.2 equiv.) was added slowly. The reaction was stirred for an additional two hours. The reaction crude was diluted with dichloromethane and washed with water and brine. The organic layers were dried over MgSO4, filtered and evaporated. The residue was purified by column chromatography on eluting ethyl acetate and hexane to allow N-(2-amino-5-bromophenyl)pyrrolidine-1-carboxamide (0.45 g, 31% yield).

reactant | 5-bromo-2-nitroaniline | 4.61 mmol, 1 g | BrC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | triphosgene | 4.61 mmol, 1.37 g, 1 equiv. | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyrrolidine | 5.53 mmol, 0.39 g, 1.2 equiv. | N1CCCC1 | C4H9N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(2-amino-5-bromophenyl)pyrrolidine-1-carboxamide | 0.45 g, 31% yield | NC1=C(C=C(C=C1)Br)NC(=O)N1CCCC1 | C11H14BrN3O
